US07763731B2
4-Bromo-3-nitro-benzoic acid methyl ester
Commercially available 4-bromo-3-nitro-benzoic acid (1.17 g, 4.76 mmol) was dissolved in methanol (5 mL) containing five drops of concentrated sulfuric acid. The mixture was heated in air at 90° C. for six hours and more MeOH (7 mL) followed by concentrated sulfuric acid (0.6 mL) was added. Heating was continued another 24 hours. Extractive work up (ethyl acetate-water) followed by drying over MgSO4, filtered and concentrated under vacuum giving the title compound in quantitative yield.

reactant | 4-bromo-3-nitro-benzoic acid | 4.76 mmol, 1.17 g | BrC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | sulfuric acid | 0.6 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate water | C(C)(=O)OCC.O
solvent | methanol | 5 mL | CO | CH4O
catalyst | sulfuric acid | five drops | S(O)(O)(=O)=O | H2O4S
solvent | MeOH | 7 mL | CO | CH4O
product | 4-Bromo-3-nitro-benzoic acid methyl ester | quantitative yield | COC(C1=CC(=C(C=C1)Br)[N+](=O)[O-])=O | C8H6BrNO4
